US05216167
(r) n-Propyl 2-n-propoxy-4-[N-{1-(2-piperidino-phenyl)-1-butyl}-aminocarbonylmethyl]-benzoate
Prepared from 1-(2-piperidino-phenyl)-1-butylamine and 3-n-propoxy-4-n-propoxycarbonyl-phenylacetic acid.

reactant | 1-(2-piperidino-phenyl)-1-butylamine | N1(CCCCC1)C1=C(C=CC=C1)C(CCC)N | C15H24N2
reactant | 3-n-propoxy-4-n-propoxycarbonyl-phenylacetic acid | C(CC)OC=1C=C(C=CC1C(=O)OCCC)CC(=O)O | C15H20O5
product | n-Propyl 2-n-propoxy-4-[N-{1-(2-piperidino-phenyl)-1-butyl}-aminocarbonylmethyl]-benzoate | C(CC)OC1=C(C(=O)OCCC)C=CC(=C1)CC(=O)NC(CCC)C1=C(C=CC=C1)N1CCCCC1 | C30H42N2O4
